US05545652
The resulting N-chloroacetyl-N-ethoxycarbonylmethyl-4-(2,2,3,3-tetrafluoropropoxy)aniline (1.9 g) was dissolved in 20 ml of 10.5% ammonia-ethanol and the solution was stirred at 60° C. for four hours. After cooling, the crystals separated out therefrom were collected by filtration and washed with cold ethanol to give 1.5 g of 1-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-2,5-piperazinedione as colorless crystals.

reactant | N-chloroacetyl-N-ethoxycarbonylmethyl-4-(2,2,3,3-tetrafluoropropoxy)aniline | 1.9 g | ClCC(=O)N(C1=CC=C(C=C1)OCC(C(F)F)(F)F)CC(=O)OCC | C15H16ClF4NO4
reactant | ammonia ethanol | 20 ml | N.C(C)O
product | 1-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-2,5-piperazinedione | 1.5 g | FC(COC1=CC=C(C=C1)N1C(CNC(C1)=O)=O)(C(F)F)F | C13H12F4N2O3
